US04237278
Compound 1: 2-Methyl-5-(2-hydroxy-styryl)-1,3,4-thiadiazole
570 g (5 moles) of 2,5-dimethyl-1,3,4-thiadiazole and 275 g (2.5 moles) of salicylaldehyde are mixed and the mixture is slowly heated to 150° C. whilst passing nitrogen through it. The mixture is kept at 150° C. for 30 hours and is then cooled, the excess 2,5-dimethyl-1,3,4-thiadiazole is distilled off and the residue is recrystallized from methylglycol. 304 g (56% of theory) of yellow crystals of melting point 253°-254° are obtained.

reactant | 2,5-dimethyl-1,3,4-thiadiazole | 5 moles, 570 g | CC=1SC(=NN1)C | C4H6N2S
reactant | salicylaldehyde | 2.5 moles, 275 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
product | 2-Methyl-5-(2-hydroxy-styryl)-1,3,4-thiadiazole | CC=1SC(=NN1)C=CC1=C(C=CC=C1)O | C11H10N2OS
